US04113722
A solution of 21-chloro-9-fluoro-11β-hydroxypregna-1,4,16-triene-3,20-dione (456 mg) in dry dimethylformamide (9.0 ml) containing 1.2 ml of bis(trimethylsilyl)trifluoroacetamide (Regisil®, Regis Chemical Company; contains 1% trimethylsilyl chloride) is heated in a tightly stoppered flask for 1.0 hour in a bath at 110°-115° C. The solution is cooled, poured into dilute sodium bicarbonate solution and the steroid product is extracted into chloroform. The chloroform solution is washed several times with cold water, dried and evaporated to a gum that contains traces of dimethylformamide. (By dissolving this gum in ethyl acetate and diluting the solution with hexane, it is possible to isolate homogeneous 21-chloro-9-fluoro-11β-hydroxy-20-trimethylsilyloxypregna-1,4,16,20-tetraene-3-one). The nmr spectrum shows the gum to be essentially a mixture of the title compound, the 11β-trimethylsilyl derivative of the title compound and small amounts of other impurities.

reactant | 21-chloro-9-fluoro-11β-hydroxypregna-1,4,16-triene-3,20-dione | 456 mg | ClCC(C1=CC[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@]3([C@H](C[C@]12C)O)F)=O)=O | C21H24ClFO3
reactant | bis(trimethylsilyl)trifluoroacetamide | 1.2 ml | C[Si](C)(C)N(C(C(F)(F)F)=O)[Si](C)(C)C | C8H18F3NOSi2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 9.0 ml | CN(C=O)C | C3H7NO
product | 21-chloro-9-fluoro-11β-hydroxy-20-trimethylsilyloxypregna-1,4,16,20-tetraene-3-one | ClC=C(C1=CC[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@]3([C@H](C[C@]12C)O)F)=O)O[Si](C)(C)C | C24H32ClFO3Si
